US06855716B2
Synthesis of 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy)methyl]-2-phenyl-5-[(3-phenyl-2-propene-1-yl)- carbamoyl]-1,4-dihydropyrimidine
110 mg (0.243 mmol) of 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy)methyl]-2-phenyl-1,4-dihydropyrimidine-5-carboxylic acid and 38.8 mg (0.292 mmol) of cinnamylamine were dissolved in 10 ml of dichloromethane. 69.9 mg (0.365 mmol) of WSC hydrochloride and 37.2 mg (0.243 mmol) of HOBT were added to the obtained solution under cooling with ice, and they were stirred at room temperature for 3 hours. The reaction mixture was diluted with dichloromethane and then washed with saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy)methyl]-2-phenyl-1,4-dihydropyrimidine-5-carboxylic acid | 0.243 mmol, 110 mg | ClC=1C=C(C=CC1)C1N=C(NC(=C1C(=O)O)COCCC1CCCCC1)C1=CC=CC=C1 | C26H29ClN2O3
reactant | cinnamylamine | 0.292 mmol, 38.8 mg | C(C=CC1=CC=CC=C1)N | C9H11N
reactant | WSC hydrochloride | 0.365 mmol, 69.9 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.243 mmol, 37.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy)methyl]-2-phenyl-5-[(3-phenyl-2-propene-1-yl)- carbamoyl]-1,4-dihydropyrimidine | ClC=1C=C(C=CC1)C1N=C(NC(=C1C(NCC=CC1=CC=CC=C1)=O)COCCC1CCCCC1)C1=CC=CC=C1 | C35H38ClN3O2
